US07476741B2
2-Acetoxy-4-(3-bromo-4,5-dimethoxyphenyl)-7-methyl-pyrrolo[2,3-h]chroman
To a solution of 4-(3-bromo-4,5-dimethoxyphenyl)-2-hydroxy-7-methyl-pyrrolo[2,3-h]chroman (37 mg, 0.089 mmol) in dichloromethane (0.5 ml) at 0° C. was added pyridine (0.010 ml, 0.133 mmol), 4-dimethylaminopyridine (1.0 mg, 0.0082 mmol) and acetic anhydride (0.010 ml, 0.111 mmol) and the resulting solution was stirred at 0° C. for 0.5 h. The solution was then stirred at room temperature for 1.5 h. The reaction mixture was diluted with dichloromethane and the organic solution was extracted with water and a saturated aqueous solution of sodium bicarbonate. The organic layer was dried and concentrated in vacuo. The residue was purified by flash chromatography (20% ethyl acetate/hexane) to give 39 mg (90%) of the title compound. 1H NMR (CD3CN): 7.10 (dd, 1H); 7.02 (m, 1H); 6.94-6.84 (m, 2H); 6.72-6.60 (m, 1H); 6.53 (m, 1H); 6.43 (m, 1H); 4.38-4.19 (m, 1H); 3.80-3.74 (m, 9H); 2.56-2.40 (m, 1H); 2.32 (m, 1H); 1.96 (s, 3H).

reactant | 4-(3-bromo-4,5-dimethoxyphenyl)-2-hydroxy-7-methyl-pyrrolo[2,3-h]chroman | 0.089 mmol, 37 mg | BrC=1C=C(C=C(C1OC)OC)C1CC(OC2=C3C(=CC=C12)N(C=C3)C)O | C20H20BrNO4
reactant | pyridine | 0.133 mmol, 0.010 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.111 mmol, 0.010 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.0082 mmol, 1.0 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-Acetoxy-4-(3-bromo-4,5-dimethoxyphenyl)-7-methyl-pyrrolo[2,3-h]chroman | 39 mg, 90% | C(C)(=O)OC1OC2=C3C(=CC=C2C(C1)C1=CC(=C(C(=C1)OC)OC)Br)N(C=C3)C | C22H22BrNO5
